US07544812B2
3-(4-{2-[3-(4-Methoxy-benzyl)-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester:
Cesium carbonate (2.49 g, 7.647 mmol) is added to a solution of 3-(4-Hydroxy-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester (1.77 g, 5.88 mmol) and toluene-4-sulfonic acid 2-[3-(4-methoxy-benzyl)-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester (3.64 g, 6.47 mmol) in DMF (40 mL). The resultant mixture is stirred at 55° C. under an atmosphere of nitrogen for 18 h, then diluted with ethyl acetate. The organic layer is washed, then dried, concentrated, and purified by flash chromatography (acetone/hexanes gradient) to provide the title compound (3.80 g, 94%). 1H NMR (400 MHz, CDCl3): δ 7.57 (d, 2H, J=8.4 Hz), 7.37 (d, 2H, J=7.8 Hz), 7.23-7.19 (m, 4H), 7.13 (d, 2H, J=8.4 Hz), 6.97 (t, 1H, J=7.8 Hz), 6.86 (d, 2H, J=8.4 Hz), 6.81 (d, 2H, J=8.4 Hz), 6.67 (d, 2H, J=7.8 Hz), 4.66, 4.20 (ABq, 2H, J=14.9 Hz), 4.47, 4.43 (ABq, 2H, J=15.5 Hz), 4.20 (q, 2H, J=7.1 Hz), 3.89-3.85 (m, 2H), 3.80 (s, 3H), 3.61-3.55 (m, 1H), 3.31 (t, 1H, J=9.1 Hz), 3.26, 3.08 (ABq, 2H, J=13.6 Hz), 3.00 (t, 1H, J=9.1 Hz), 2.20-2.14 (m, 1H), 1.87-1.78 (m, 1H), 1.38 (s, 3H), 1.21 (t, 3H, J=7.1 Hz). MS [EI+] 691 (M+H)+. Rf=0.46 in 50% acetone in hexanes.

reactant | Cesium carbonate | 7.647 mmol, 2.49 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(4-Hydroxy-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester | 5.88 mmol, 1.77 g | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=CC=CC=C1)C)=O | C18H20O4
reactant | toluene-4-sulfonic acid 2-[3-(4-methoxy-benzyl)-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester | 6.47 mmol, 3.64 g | COC1=CC=C(CN2C(N(CC2CCOS(=O)(=O)C2=CC=C(C=C2)C)CC2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C28H29F3N2O5S
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-{2-[3-(4-Methoxy-benzyl)-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester | 3.80 g, 94% | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)OC)(OC1=CC=CC=C1)C)=O | C39H41F3N2O6
